US08222416B2
To a mixture of 1-benzenesulfonyl-2-[2-cyclopentyl-1-(6-methanesulfinyl-pyridin-3-yl)-vinyl]-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid methyl ester (301 mg, 0.55 mmol) in methanol (30 ml) was added a solution of potassium permanganate (88 mg, 0.55 mmol) in water (30 ml). The reaction mixture was stirred at 25° C. for 1 h. The suspension was filtered through a short silica gel pad and then washed with ethyl acetate (3×30 mL). The filtrate was concentrated and extracted with ethyl acetate (2×50 mL). The combined organic extracts were washed with water (2×20 mL), dried over anhydrous sodium sulfate and then concentrated in vacuo to afford 1-benzenesulfonyl-2-[2-cyclopentyl-1-(6-methanesulfonyl-pyridin-3-yl)-vinyl]-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid methyl ester (230 mg, 72%): LC/MS m/e calcd for C28H27N3O6S2 [M+H]+ 566.67, observed 565.9.

reactant | 1-benzenesulfonyl-2-[2-cyclopentyl-1-(6-methanesulfinyl-pyridin-3-yl)-vinyl]-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid methyl ester | 0.55 mmol, 301 mg | COC(=O)C=1C=C2C(=NC1)N(C(=C2)C(=CC2CCCC2)C=2C=NC(=CC2)S(=O)C)S(=O)(=O)C2=CC=CC=C2 | C28H27N3O5S2
reactant | potassium permanganate | 0.55 mmol, 88 mg | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | methanol | 30 ml | CO | CH4O
solvent | water | 30 ml | O | H2O
product | 1-benzenesulfonyl-2-[2-cyclopentyl-1-(6-methanesulfonyl-pyridin-3-yl)-vinyl]-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid methyl ester | 230 mg, 72% | COC(=O)C=1C=C2C(=NC1)N(C(=C2)C(=CC2CCCC2)C=2C=NC(=CC2)S(=O)(=O)C)S(=O)(=O)C2=CC=CC=C2 | C28H27N3O6S2
